US07375204B2
2-Benzoyl-6,7-dimethoxy-1,2-dihydro-1-isoquinolinecarbonitrile
An aqueous potassium cyanide (1.0 g, 16 mmol) solution (2.3 ml) and benzoyl chloride (1.1 ml, 9.5 mmol) were added to a solution of 6,7-dimethoxyisoquinoline (1.0 g, 5.3 mmol), which was synthesized according to Tetrahedron, 37 (23), 3977 (1981), in methylene chloride (6.0 ml), and this reaction mixture was stirred while heating under reflux for 2 hours. The reaction mixture was cooled to room temperature, filtered through celite, and washed with methylene chloride and water. After the obtained filtrate was separated, the methylene chloride layer was washed successively with water, 2 N hydrochloric acid, water, and 2 N sodium hydroxide, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound (573 mg).

reactant | potassium cyanide | 16 mmol, 1.0 g | [C-]#N.[K+]
reactant | benzoyl chloride | 9.5 mmol, 1.1 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6,7-dimethoxyisoquinoline | 5.3 mmol, 1.0 g | COC=1C=C2C=CN=CC2=CC1OC | C11H11NO2
solvent | methylene chloride | 6.0 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzoyl-6,7-dimethoxy-1,2-dihydro-1-isoquinolinecarbonitrile | 573 mg | C(C1=CC=CC=C1)(=O)N1C(C2=CC(=C(C=C2C=C1)OC)OC)C#N | C19H16N2O3
